US07091227B2
1-(6-Acetylenyl-2-benzothiazolyl)-3-ethylurea
A mixture of 1-(6-trimethylsilylacetylenyl-2-benzothiazolyl)-3-ethylurea (0.0710 g, 0.22 mmol) and 1M aqueous KOH solution (1.22 mL, 1.22 mmol, 5.5 eq) in 1.5 mL MeOH was stirred at room temperature for about 2 hours. The mixture acidified with 1 M HCl, then taken up in 20 mL AcOEt, and the aqueous phase was extracted with 10 mL AcOEt. The combined organic portions were dried (MgSO4), concentrated, and purified by HPLC to give the desired compound 0.003 g (5%). LC/MS 246 (M+1); LC retention time 2.84 min.

reactant | 1-(6-trimethylsilylacetylenyl-2-benzothiazolyl)-3-ethylurea | 0.22 mmol, 0.0710 g | C[Si](C)(C)C#CC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C15H19N3OSSi
reactant | KOH | 1.22 mmol, 1M, 1.22 mL, 5.5 eq | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
product | 1-(6-Acetylenyl-2-benzothiazolyl)-3-ethylurea | 0.003 g, 5% | C(#C)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C12H11N3OS
